US07915443B2
N-(3-iodophenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 3-iodoaniline (131 mg, 0.60 mmol) in 1.5 ml pyridine at room temperature was added over 2 minutes a solution of 1,3-dimethylpyrazole-5-carbonyl chloride (79 mg, 0.50 mmol) in 0.3 ml 1,2-dichloroethane. The reaction was stirred at room temperature for 30 minutes, quenched into a NaHCO3 solution, and extracted into EtOAc. The EtOAc solution was washed with NaHCO3 solution, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resultant gummy solid was recrystallized from hexane/EtOAc to give the title compound as solid white needles (135 mg, 80%).

reactant | 3-iodoaniline | 0.60 mmol, 131 mg | IC=1C=C(N)C=CC1 | C6H6IN
reactant | 1,3-dimethylpyrazole-5-carbonyl chloride | 0.50 mmol, 79 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 0.3 ml | ClCCCl | C2H4Cl2
product | N-(3-iodophenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | IC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C12H12IN3O
